US08058045B2
A solution of 3-(aminomethyl)-1-boc-piperidine (409 mg, 1.91 mmol) in acetonitrile (2.5 mL) was added dropwise to a solution of 2-bromo-4-chloro-5-nitropyridine (431 mg, 1.82 mmol) and triethylamine (0.28 mL, 2.0 mmol) in acetonitrile (10 mL). The solution was stirred for 1 hr then partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane (×3) and the combined organic phases were dried (Na2SO4) and concentrated to give tert-butyl 3-((2-bromo-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate as a yellow-brown solid (718 mg, 95%) which was used without further purification.

reactant | 3-(aminomethyl)-1-boc-piperidine | 1.91 mmol, 409 mg | NCC1CN(CCC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2-bromo-4-chloro-5-nitropyridine | 1.82 mmol, 431 mg | BrC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 3-((2-bromo-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate | 718 mg, 95% | BrC1=NC=C(C(=C1)NCC1CN(CCC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H23BrN4O4
